US07585885B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methoxy-phenoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
React (2R,4R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester With 4M HCl in dioxane essentially as described in EXAMPLE 1 to provide the title compound.

reactant | (2R,4R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=CC(=CC=C1)OC)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C27H34F2N2O6
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methoxy-phenoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](C2)OC2=CC(=CC=C2)OC)O)NC(C)=O)C=C(C1)F | InChI=1S/C22H26F2N2O4.ClH/c1-13(27)26-21(8-14-6-15(23)9-16(24)7-14)22(28)20-11-19(12-25-20)30-18-5-3-4-17(10-18)29-2;/h3-7,9-10,19-22,25,28H,8,11-12H2,1-2H3,(H,26,27);1H/t19-,20-,21+,22-;/m1./s1
